US08536165B2
2-(6-Bromo-5-methylpyridin-3-ylamino)benzoic acid
Obtained (0.17 g, yield 14%) following the procedure described in Intermediate 13 starting with 6-bromo-5-methylpyridin-3-amine (2.70 mmol, 0.5 g) and 2-bromobenzoic acid (4.03 mmol, 0.81 g).

reactant | 6-bromo-5-methylpyridin-3-amine | 2.70 mmol, 0.5 g | BrC1=C(C=C(C=N1)N)C | C6H7BrN2
reactant | 2-bromobenzoic acid | 4.03 mmol, 0.81 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
product | 2-(6-Bromo-5-methylpyridin-3-ylamino)benzoic acid | yield 14% | BrC1=C(C=C(C=N1)NC1=C(C(=O)O)C=CC=C1)C | C13H11BrN2O2
